US06288105B1
Preparation of 3-Methyl-4-[(1-pyrrolidinyl)methyl]phenyl 6-Methoxy-2-(4-aminophenyl)benzo[b]thiophen-3-yl Ketone
A solution of 15.0 g (58.7 mmol) of 6-methoxy-2-(4-aminophenyl)benzo[b]thiophene (Part B) in 350 mL of pyridine was treated with 17.0 mL (180 mmol) of acetic anhydride in a dropwise manner. After stirring for 2 h, the reaction was concentrated in vacuo to give 15.1 g (50.7 mmol; 87%) of the title compound as a yellow solid.

reactant | 6-methoxy-2-(4-aminophenyl)benzo[b]thiophene | 58.7 mmol, 15.0 g | COC=1C=CC2=C(SC(=C2)C2=CC=C(C=C2)N)C1 | C15H13NOS
reactant | acetic anhydride | 180 mmol, 17.0 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 350 mL | N1=CC=CC=C1 | C5H5N
product | 3-Methyl-4-[(1-pyrrolidinyl)methyl]phenyl 6-Methoxy-2-(4-aminophenyl)benzo[b]thiophen-3-yl Ketone | COC=1C=CC2=C(SC(=C2C(=O)C2=CC(=C(C=C2)CN2CCCC2)C)C2=CC=C(C=C2)N)C1 | C28H28N2O2S
